US05476944
(1R-cis)-2-[[3,5-bis (1,1-dimethylethyl)phenyl]thio]cyclohexanol (Compound B) (52)
Sodium borohydride (0.40 g, 0.0105 mole) was added to a cold (3° C.) solution of 2-[[3,5-bis(1,1-dimethylethyl)phenyl]thio]cyclohexanone (3.18 g, 0.0100 mole) in methanol (150 mL). After 1 hour, 10% hydrochloric acid (5 mL) and water (50 mL) were added. The methanol was removed by rotary evaporator and the title products were extracted into ethyl acetate. The combined extracts were dried over sodium sulfate, filtered and concentrated to an oil. Silica gel chromatography separated the two title products. The major product (first off) was identified as the "cis" product by NMR.

reactant | Sodium borohydride | 0.0105 mole, 0.40 g | [BH4-].[Na+]
reactant | 2-[[3,5-bis(1,1-dimethylethyl)phenyl]thio]cyclohexanone | 0.0100 mole, 3.18 g | CC(C)(C)C=1C=C(C=C(C1)C(C)(C)C)SC1C(CCCC1)=O | C20H30OS
reactant | hydrochloric acid | 5 mL | Cl | ClH
reactant | water | 50 mL | O | H2O
solvent | methanol | 150 mL | CO | CH4O
product | (1R-cis)-2-[[3,5-bis (1,1-dimethylethyl)phenyl]thio]cyclohexanol | CC(C)(C)C=1C=C(C=C(C1)C(C)(C)C)S[C@@H]1[C@@H](CCCC1)O | C20H32OS
